US04960884
Under a dry nitrogen atmosphere a mixture of 6.0 grams (0.026 mole) of 2,3-di(2-fluoroethoxy)benzaldehyde (prepared by the method of Example 1 from 2,3-dihydroxybenzaldehyde) and 1.3 gram (0.034 mole) of sodium borohydride in 130 ml of ethanol was stirred at room temperature for approximately 18 hours. The reaction was quenched with dilute hydrochloric acid, and the mixture was extracted with diethyl ether. The extract was washed with dilute hydrochloric acid followed by an aqueous, saturated sodium chloride solution. The organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to yield 5.4 grams of 1,2-di-(2-fluoroethoxy)-3-hydroxymethylbenzene as a solid.

reactant | 2,3-di(2-fluoroethoxy)benzaldehyde | 0.026 mole, 6.0 grams | FCCOC1=C(C=O)C=CC=C1OCCF | C11H12F2O3
reactant | 2,3-dihydroxybenzaldehyde | OC1=C(C=O)C=CC=C1O | C7H6O3
reactant | sodium borohydride | 0.034 mole, 1.3 gram | [BH4-].[Na+]
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 1,2-di-(2-fluoroethoxy)-3-hydroxymethylbenzene | 5.4 grams | FCCOC1=C(C(=CC=C1)CO)OCCF | C11H14F2O3
